US08207177B2
Step d: 2-((1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)ethanol
((1S,2S,4R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)acetaldehyde (0.164 g, 0.314 mmol) was dissolved in methanol (5.00 mL, 123 mmol) under an atmosphere of argon and cooled to 0° C. Sodium tetrahydroborate (0.0291 g, 0.754 mmol) was added and the reaction was stirred for 10 minutes. Additional sodium tetrahydroborate (0.0143 g, 0.377 mmol) was added, and the reaction mixture was stirred for another 30 minutes. The reaction was quenched with water, extracted with EtOAc, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with a gradient of 0 to 100% EtOAc in methylene chloride, to afford the title compound (0.0694 g, 45%). LC/MS: Rt=1.65 min, ES+ 494 (FA standard).

reactant | ((1S,2S,4R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)acetaldehyde | 0.314 mmol, 0.164 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CC=O | C28H38N4O2Si
reactant | methanol | 123 mmol, 5.00 mL | CO | CH4O
reactant | Sodium tetrahydroborate | 0.754 mmol, 0.0291 g | [BH4-].[Na+]
reactant | sodium tetrahydroborate | 0.377 mmol, 0.0143 g | [BH4-].[Na+]
product | 2-((1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)ethanol | 0.0694 g, 45% | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CCO | C28H40N4O2Si
